US04124593
The starting material is prepared as follows: The solution of 2 g of N-(4-nitro-2-iodomethylphenyl)-4-chlorophthalimide in 40 ml of tetrahydrofuran and 40 ml of methanol, is treated with 8.7 g of freshly prepared silver carbonate for 20 hours, with protection from light. The mixture is filtered and the filtrate evaporated, to yield the N-(2-methoxymethyl-4-nitrophenyl)-4-chlorophthalimide melting at 125°-128°.

reactant | N-(4-nitro-2-iodomethylphenyl)-4-chlorophthalimide | 2 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)CI | C15H8ClIN2O4
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | 40 ml | CO | CH4O
catalyst | silver carbonate | C([O-])([O-])=O.[Ag+2]
product | N-(2-methoxymethyl-4-nitrophenyl)-4-chlorophthalimide | COCC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C16H11ClN2O5
